US04332948
3.2 g of 2-methoxycinnamaldehyde and 2.4 g of 1-methyl-1-phenylhydrazine were added to 50 ml of ethanol. To the mixture, two or three drops of 1 N hydrochloric acid were added. The mixture was heated and refluxed for about one hour. The reaction mixture was cooled and the crystals then separated, which were then collected on a suctional funnel. The thus obtained crude 2-methoxycinnamaldehyde 1-methyl-1-phenylhydrazone was recrystallized from ethanol. The yield was 2.6 g (49.1%) of light yellow scalelike crystals which melt at 100.5°-101.5° C.

reactant | 2-methoxycinnamaldehyde | 3.2 g | COC1=C(C=CC=O)C=CC=C1 | C10H10O2
reactant | 1-methyl-1-phenylhydrazine | 2.4 g | CN(N)C1=CC=CC=C1 | C7H10N2
catalyst | hydrochloric acid | 1 N, three drops | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-methoxycinnamaldehyde 1-methyl-1-phenylhydrazone | CN(N=CC=CC1=C(C=CC=C1)OC)C1=CC=CC=C1 | C17H18N2O
